US07820825B2
A stirred solution of 1-{4-[(1H-benzo[d]imidazol-2-yl)methyl]benzoyl}-pyrrolidin-3-yl methanesulfonate (0.250 g, 0.6 mmol) in DMF was treated with potassium carbonate (0.260 g, 1.9 mmol), cooled to −5° C., treated dropwise with ethyl iodide (0.24 g, 1.5 mmol) at 0° C. over 20 min, warmed to room temperature, heated at 50° C. for 3 h, cooled to room temperature and filtered. The filtrate was concentrated in vacuo. The resultant residue was dissolved in ethyl acetate, washed with water, dried over sodium sulfate and concentrated in vacuo. Purification of this residue by column chromatography (neutral alumina, chloroform:methanol 100:0→98:2) afforded 1-{4-[(1-ethyl-1H-benzo[d]imidazol-2-yl)methyl]benzoyl}pyrrolidin-3-yl methanesulfonate (19%). 1H NMR (400 MHz, CDCl3): 7.79-7.77 (m, 1H), 7.44-7.51 (m, 3H), 7.32-7.25 (m, 4H), 5.37 & 5.23 (bs, 1H), 4.36 (s, 2H), 4.05-4.10 (q, J=8 Hz, 2H), 3.93 (bs, 1H), 3.82 (m, 1H), 3.57-3.71 (bs, 2H), 3.08 & 3.00 (s, 3H), 2.33-2.36 (m, 1H), 2.17-2.21 (m, 1H), 1.18-1.22 (t, J=8 Hz, 3H). [M+H] 428.

reactant | 1-{4-[(1H-benzo[d]imidazol-2-yl)methyl]benzoyl}-pyrrolidin-3-yl methanesulfonate | 0.6 mmol, 0.250 g | CS(=O)(=O)OC1CN(CC1)C(C1=CC=C(C=C1)CC1=NC2=C(N1)C=CC=C2)=O | C20H21N3O4S
reactant | potassium carbonate | 1.9 mmol, 0.260 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 1.5 mmol, 0.24 g | C(C)I | C2H5I
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-{4-[(1-ethyl-1H-benzo[d]imidazol-2-yl)methyl]benzoyl}pyrrolidin-3-yl methanesulfonate | 19% | CS(=O)(=O)OC1CN(CC1)C(C1=CC=C(C=C1)CC1=NC2=C(N1CC)C=CC=C2)=O | C22H25N3O4S
